US06080743
7-Bromo-2,3-dioxo-5-hydroxymethyl-1,2,3,4-tetrahydroquinoxaline
450 mg (1.5 mmol) of 7-bromo-5-hydroxymethyl-2,3-dimethoxy-quinoxaline are dissolved in 30 ml of acetic acid and 10 ml of 2N hydrochloric acid, and the solution is heated at reflux for 2 hours and cooled to 20° C. The solid is filtered off, washed with water and dried.

reactant | 7-bromo-5-hydroxymethyl-2,3-dimethoxy-quinoxaline | 1.5 mmol, 450 mg | BrC1=CC(=C2N=C(C(=NC2=C1)OC)OC)CO | C11H11BrN2O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2N, 10 ml | Cl | ClH
product | 7-Bromo-2,3-dioxo-5-hydroxymethyl-1,2,3,4-tetrahydroquinoxaline | BrC1=CC(=C2NC(C(NC2=C1)=O)=O)CO | C9H7BrN2O3
